US07683064B2
1-Methyl-4-(6-nitro-pyridin-3-yl)-piperazine (1.748 g, 7.865 mmol) was stirred in 30 mL methanol with 175 mg 10% palladium on carbon under an atmosphere of hydrogen gas for 5 hours. This was filtered and concentrated in vacuo to yield 5-(4-Methyl-piperazin-1-yl)-pyridin-2-ylamine (1.485 g, 7.724 mmol). MS (ESI) 193.1 (M+H)+.

reactant | 1-Methyl-4-(6-nitro-pyridin-3-yl)-piperazine | 7.865 mmol, 1.748 g | CN1CCN(CC1)C=1C=NC(=CC1)[N+](=O)[O-] | C10H14N4O2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on carbon | 175 mg | [Pd] | Pd
product | 5-(4-Methyl-piperazin-1-yl)-pyridin-2-ylamine | 7.724 mmol, 1.485 g | CN1CCN(CC1)C=1C=CC(=NC1)N | C10H16N4
